US07528147B2
A solution of 5-methoxy-1-methyl-3-[1-(toluene-4-sulfonyl)-1H-pyrrolo[2,3-b]pyridin-2-yl]-1H-indol-6-ol (0.8 g; 1.788 mmol) in solution in dimethylformamide (5 ml) is placed in a 50 ml round-bottomed flask rendered inert with argon, and sodium hydride (0.064 g; 2.146 mmol) is then added. The reaction mixture becomes brown in color and 1-bromo-2-chloroethane (0.308 g; 2.146 mmol) is added. The reaction mixture is agitated for 1 hour 30 minutes at 20° C. and then sodium hydride (0.064 g; 2.146 mmol) and 1-bromo-2-chloroethane (2×0.5 ml) are again added. Analysis by thin layer chromatography (50/50 cyclohexane/ethyl acetate) shows that the reaction has come to an end. The reaction mixture is diluted with water (150 ml) and ethyl acetate (50 ml), and extracted with ethyl acetate (2×50 ml). The organic extracts are combined, dried over magnesium sulfate, filtered, and evaporated under reduced pressure, resulting in the crude compound, which is purified by chromatography on silica gel (AIT cartridge FC 25 Si-BP-Sup, eluent: 65/35 cyclohexane/ethyl acetate at 10 ml/min). The fractions containing the expected compound are combined and then evaporated under reduced pressure, giving the expected 2-[6-(2-chloroethoxy)-5-methoxy-1-methyl-1H-indol-3-yl]-1-(toluene-4-sulfonyl)-1H-pyrrolo[2,3-b]pyridine (0.66 g; 72%) in the form of a powder, the characteristics of which are as follows:

reactant | 5-methoxy-1-methyl-3-[1-(toluene-4-sulfonyl)-1H-pyrrolo[2,3-b]pyridin-2-yl]-1H-indol-6-ol | 1.788 mmol, 0.8 g | COC=1C=C2C(=CN(C2=CC1O)C)C1=CC=2C(=NC=CC2)N1S(=O)(=O)C1=CC=C(C=C1)C | C24H21N3O4S
reactant | sodium hydride | 2.146 mmol, 0.064 g | [H-].[Na+]
reactant | 1-bromo-2-chloroethane | 2.146 mmol, 0.308 g | BrCCCl | C2H4BrCl
reactant | sodium hydride | 2.146 mmol, 0.064 g | [H-].[Na+]
reactant | 1-bromo-2-chloroethane | 0.5 ml | BrCCCl | C2H4BrCl
reactant | cyclohexane ethyl acetate | C1CCCCC1.C(C)(=O)OCC
solvent | dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
solvent | water | 150 ml | O | H2O
solvent | ethyl acetate | 50 ml | C(C)(=O)OCC | C4H8O2
product | 2-[6-(2-chloroethoxy)-5-methoxy-1-methyl-1H-indol-3-yl]-1-(toluene-4-sulfonyl)-1H-pyrrolo[2,3-b]pyridine | 0.66 g, 72% | ClCCOC1=C(C=C2C(=CN(C2=C1)C)C1=CC=2C(=NC=CC2)N1S(=O)(=O)C1=CC=C(C=C1)C)OC | C26H24ClN3O4S
